US20010056109A1
(c) 3-(4-Methoxyphenyl)-2-phenylpropionyl chloride
3-(4-Methoxyphenyl)-2-phenylpropanoic acid (12.5 g, 0.049 mol) was converted to its acid chloride by treatment with thionyl chloride (8.2 ml) in dry dichloromethane (75 ml) at 40° C. Excess thionyl chloride and dichloromethane were evaporated off. The crude product was used in the next step without purification.

reactant | 3-(4-Methoxyphenyl)-2-phenylpropanoic acid | 0.049 mol, 12.5 g | COC1=CC=C(C=C1)CC(C(=O)O)C1=CC=CC=C1 | C16H16O3
reactant | thionyl chloride | 8.2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 3-(4-Methoxyphenyl)-2-phenylpropionyl chloride | COC1=CC=C(C=C1)CC(C(=O)Cl)C1=CC=CC=C1 | C16H15ClO2
